US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-cyclobutylmethyl ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and cyclobutylmethanol according to the procedure of Example 30 as an off-white solid (HCl salt); 1H NMR (CDCl3) δ 1.32 (d, J=6.5 Hz, 3H), 1.85 (m, 8H), 2.05 (m, 4H), 2.69 (m, 2H), 2.80 (m, 1H), 3.19 (m, 2H), 3.48 (m, 2H), 4.10 (s, 4H), 5.50 (bd, 1H), 5.70 (bs, 1H), 6.80 (m, 3H), 7.25 (m, 2H), 7.45 (s, 1H), 8.70 (bs, 1H), 10.10 (bs, 1H); IR (KBr): 1759, 1779 cm-1 (C=O); MS (ES) m/z 558 (MH+); [α]D25 -27° (c, 1.0, CHCl3). Anal. Calcd. for C30H36ClNO7 ·HCl: C, 60.61; H, 6.10; N, 2.36; Cl, 11.94. Found: C, 60.68; H, 6.30; N, 2.31; Cl, 11.71.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | cyclobutylmethanol | C1(CCC1)CO | C5H10O
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-cyclobutylmethyl ester | C1(CCC1)COC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCC2CCC2 | C30H36ClNO7
